US05151518
Alternatively, N-phenyl 5 nitroisatin was prepared by the in-situ bismuth arylating reagent generation scheme outlined above. 5-nitroisatin (100.3 mg), triphenyl bismuth dichloride (400 mg), copper powder (10 mg), and methylene chloride (40 ml) were placed in a 50 ml flask. The mixture was heated to reflux under a nitrogen atmosphere while stirring. After three hours, no reaction was observed although bismuth reagent decomposition was noted whereupon additional triphenyl bismuth dichloride (220 mg) was added. The mixture was stirred and refluxed overnight after which arylation was still not observed.

reactant | 5-nitroisatin | 100.3 mg | [N+](=O)([O-])C=1C=C2C(C(NC2=CC1)=O)=O | C8H4N2O4
reactant | triphenyl bismuth dichloride | 400 mg | C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)(C1=CC=CC=C1)(Cl)Cl
reactant | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
reactant | triphenyl bismuth dichloride | 220 mg | C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)(C1=CC=CC=C1)(Cl)Cl
solvent | bismuth | [Bi] | Bi
catalyst | copper | 10 mg | [Cu] | Cu
product | N-phenyl 5 nitroisatin | C1(=CC=CC=C1)N1C(=O)C(=O)C2=CC(=CC=C12)[N+](=O)[O-] | C14H8N2O4
